US06235731B1
5) Synthesis of N-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 356.2 mg (0.85 mM) of N-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (6 ml) was added 2.0 ml (8.0 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at room temperature for several minutes. After the solvent was distilled off under reduced pressure, diethyl ether was added to the residue and the resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.85 mM, 356.2 mg | C1(=CC=CC=C1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H26N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C24H26N4OS.2ClH/c29-24(21-16-20-17-25-22-9-4-10-23(30-21)28(20)22)26-19-11-14-27(15-12-19)13-5-8-18-6-2-1-3-7-18;;/h1-4,6-7,9-10,16-17,19H,5,8,11-15H2,(H,26,29);2*1H
